US06933290B2
(S)-N-{(S)-1-[(R)-3-Methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-ethyl}-2-(3-phenyl-propionylamino)-3-(2.3.4 trimethoxy-phenyl)-propionamide
The title compound is prepared from {(S)-1-[(R)-3-Methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-ethyl}-carbamic acid tert-butyl ester by reiteration of the 2-step (deprotection/coupling) procedure described in example 1 but using (S)-2-Amino-3-(2,3,4-trimethoxy-phenyl)-propionic acid and 3-Phenyl-propionic acid (Fluka) as the partners in each coupling reaction (step B, example 1), respectively.

reactant | {(S)-1-[(R)-3-Methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C)C(N[C@@H](CC(C)C)B1O[C@]2([C@@H]3C([C@H](C[C@H]2O1)C3)(C)C)C)=O)=O | C23H41BN2O5
reactant | (S)-2-Amino-3-(2,3,4-trimethoxy-phenyl)-propionic acid | N[C@H](C(=O)O)CC1=C(C(=C(C=C1)OC)OC)OC | C12H17NO5
reactant | 3-Phenyl-propionic acid | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
product | (S)-N-{(S)-1-[(R)-3-Methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-ethyl}-2-(3-phenyl-propionylamino)-3-(2.3.4 trimethoxy-phenyl)-propionamide | CC(C[C@@H](B1O[C@]2([C@@H]3C([C@H](C[C@H]2O1)C3)(C)C)C)NC(=O)[C@H](C)NC([C@H](CC3=C(C(=C(C=C3)OC)OC)OC)NC(CCC3=CC=CC=C3)=O)=O)C | C39H56BN3O8
